US04261885
(1) Preparation of Boc-Thr(Bzl)-Phe-OEt
To 200 ml of methylene chloride, were added 31.0 g of Boc-Thr(Bzl)-OH and 27.6 g of Phe-OEt.HCl, and 18.3 ml of WSC were added to the mixture under cooling at 0°--5° C., which was then subjected to stirring for 2 hours at 0°--5° C. then for 18 hours at room temperature. The methylene chloride in the reaction solution was exchanged with ethyl acetate and the exchanged solution was washed successively with 1 N HCl, 5% aqueous NaHCO3 solution and water and dried over MgSO4. The organic layer was concentrated and the produced material was crystallized from hexane, which gave 39.0 g (yield=81%) of the title compound. m.p. 99°-100.5° C. [α]D25 +6.2° (C 2.7, DMF). Analysis--Calculated for C27H36O6N2 : C, 66.92; H, 7.49; N, 5.78. Found: C, 66.91; H, 7.57; N, 5.75.

reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | Boc-Thr(Bzl)-OH | 31.0 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OC(C)(C)C | C16H23NO5
reactant | Phe-OEt.HCl | 27.6 g | N[C@@H](CC1=CC=CC=C1)C(=O)OCC.Cl
reactant | WSC | 18.3 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-Thr(Bzl)-Phe-OEt | 39.0 g, yield=81% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC)C(=O)OC(C)(C)C | C27H36N2O6
